US07834198B2
According to a method described in Bumagin, N. A. and Luzikova, E. V. J. Organometallic Chem. 532, 271-273 (1997), 4-aminobiphenyl (18.0 g, 0.1 mol) was synthesized from 4-iode aniline and magnesium phenyl bromide and dissolved in methylene chloride (150 mL). The solution thus obtained was cooled down to 0° C. Into the solution, N-bromosuccinimide (19 g, 0.1 mol) was gradually added and stirred at the room temperature for 12 hours. After the reaction was completed, water (100 mL) was added therein to terminate the reaction. The resultant was extracted with chloroform (50 mL×3) and then washed with water (50 mL×5). The resultant was then dried with anhydrous magnesium sulfate and then distilled under reduced pressure to remove the solvent. The resultant was purified via column chromatography (silica gel, chloroform/hexane (1:1 (v/v), Rf=0.2), thereby obtaining 3-bromo-4-aminobiphenyl (compound 4) in a form of an orange-tan solid. Then, 3-bromo-4-aminobiphenyl (compound 4) was recrystallized using hexane, thereby obtaining an orange-tan needle-like crystal (17.7 g, 72%).

reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | magnesium phenyl bromide | C1(=CC=CC=C1)Br.[Mg]
reactant | N-bromosuccinimide | 0.1 mol, 19 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | water | 100 mL | O | H2O
solvent | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
product | 4-aminobiphenyl | 0.1 mol, 18.0 g | NC1=CC=C(C=C1)C1=CC=CC=C1 | C12H11N
